US04628057
Methyl (3S)-2-[(2-thienylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylate
In the same manner as described in Example 53, methyl (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylate (5.00 g), triethylamine (2.61 g), carbon disulfide (1.57 ml), methanol (100 ml) and 2-thenyl chloride (3.45 g) are reacted and treated. The product is recrystallized from benzene-n-hexane to give the title compound (6.00 g, 70%) as pale yellow needles, m.p. 150°-152° C.

reactant | methyl (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 5.00 g | C1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)OC | C13H14N2O2
reactant | triethylamine | 2.61 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 1.57 ml | C(=S)=S | CS2
reactant | 2-thenyl chloride | 3.45 g | C1(=CC=CS1)CCl | C5H5ClS
solvent | methanol | 100 ml | CO | CH4O
product | Methyl (3S)-2-[(2-thienylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 6.00 g, 70% | S1C(=CC=C1)SC(=S)N1CC=2NC3=CC=CC=C3C2C[C@H]1C(=O)OC | C18H16N2O2S3
